US04138397
α-[[(Acetyloxy)methoxy]carbonyl]-(2,3-dihydro-5-benzofuranyl)acetic acid
α-Carboxy(2,3-dihydro-5-benzofuranyl)acetic acid (10 mmole) is dissolved in 50 ml of water containing 10 mmole of sodium hydroxide. This mixture is stirred for 30 minutes at room temperature and then 10 mmole of chloromethylacetate in 25 ml of ether is added. The temperature during the addition is 10° C.; after the addition is complete, the temperature is raised to 20° C. and the mixture stirred for an additional 30 minutes. The pH is adjusted to 2 and ethyl acetate is added. The organic phase is removed, dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | α-Carboxy(2,3-dihydro-5-benzofuranyl)acetic acid | 10 mmole | C(=O)(O)C(C(=O)O)C=1C=CC2=C(CCO2)C1 | C11H10O5
reactant | water | 10 mmole, 50 ml | O | H2O
reactant | chloromethylacetate | 10 mmole | ClCOC(C)=O | C3H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | ether | 25 ml | CCOCC | C4H10O
product | α-[[(Acetyloxy)methoxy]carbonyl]-(2,3-dihydro-5-benzofuranyl)acetic acid | C(C)(=O)OCOC(=O)C(C(=O)O)C=1C=CC2=C(CCO2)C1 | C14H14O7
